US08030337B2
N-(2-{2-[4-(Benzyloxy)butyl]-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl}ethyl)acetamide
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-5-(benzyloxy)pentanamide (100 mg, 0.236 mmol) and pyridinium p-toluenesulfonate (11.8 mg, 0.0471 mmol) were heated under reflux in xylene (5 mL) for 2.5 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=30/70→60/40) to give the title compound (87.0 mg, yield 91%).

reactant | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-5-(benzyloxy)pentanamide | 0.236 mmol, 100 mg | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(CCCCOCC1=CC=CC=C1)=O | C25H32N2O4
reactant | pyridinium p-toluenesulfonate | 0.0471 mmol, 11.8 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(2-{2-[4-(Benzyloxy)butyl]-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl}ethyl)acetamide | 87.0 mg, yield 91% | C(C1=CC=CC=C1)OCCCCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C25H30N2O3
